US05962525
Preparation of 2-(N-propyl)amino-6,7-dihydroxytetraline hydrocholoride
2-(N-propyl)amino-6,7 dimethoxy tetraline (prepared as described in Example 2 of the Italian patent 48779 A/86-23/12/1986) (6.6 g; 0.026 moles) were dissolved in 33 ml of 47% HBr and the resulting solution was kept at the reflux temperature overnight. Subsequently the solution was concentrated under vacuum and the residue was repeatedly washed with acetone to eliminate the excess amount of bromide acid. 8 g of a solid residue was obtained that was used as such in the following step.

reactant | 2-(N-propyl)amino-6,7 dimethoxy tetraline | C(CC)NC1CC2=CC(=C(C=C2CC1)OC)OC | C15H23NO2
solvent | HBr | 33 ml | Br | BrH
product | 2-(N-propyl)amino-6,7-dihydroxytetraline | 8 g | C(CC)NC1CC2=CC(=C(C=C2CC1)O)O | C13H19NO2
